US05041453
A mixture of 0.64 g of n-propyl-5-(3-(quinolin-2-ylmethyloxy)benzyloxy)benzoxazole-2-carboxylate and 0.45 g of sodium bicarbonate in 20 ml of ethanol in 20 ml of water is refluxed for 1.5 hours, then stirred at room temperature overnight. The mixture is neutralized and the resulting solid is filtered off, washed with water and dried in vacuo to give 5-(3-quinolin-2-ylmethyloxy)-benzyloxy)benzoxazole-2-carboxylic acid.

reactant | n-propyl-5-(3-(quinolin-2-ylmethyloxy)benzyloxy)benzoxazole-2-carboxylate | 0.64 g | C(CC)OC(=O)C=1OC2=C(N1)C=C(C=C2)OCC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2 | C28H24N2O5
reactant | sodium bicarbonate | 0.45 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | benzoxazole-2-carboxylic acid | O1C(=NC2=C1C=CC=C2)C(=O)O | C8H5NO3
